US08859769B2
To a clean and dry reaction assembly containing acetic acid (1000 ml) was added fuming nitric acid (340 ml) over a period of 15 to 20 minutes, while maintaining the temperature between 25-30° C. 2-Propylthio-pyrimidine-4,6-diol (400 g) was added to the mixture over a period of 60 minutes at 25-30° C., followed by rinsing of flask with acetic acid (100 ml). The resulting mass was stirred for 1 hour at 25-30° C. After completion of the reaction, water (2400 ml) was added to the mass for 20 minutes at 25-30° C. The resulting slurry was stirred for 1 hour at 25-30° C. The product was isolated by filtration and washed successively with water (4×800 ml). The wet product was dried under reduced pressure at 50-55° C. to produce the 5-nitro-2-propylthiopyrimidine-4,6-diol as a off-white to yellow powder (375 g, HPLC purity: 99.06% by area).

reactant | 2-Propylthio-pyrimidine-4,6-diol | 400 g | C(CC)SC1=NC(=CC(=N1)O)O | C7H10N2O2S
reactant | nitric acid | 340 ml | [N+](=O)(O)[O-] | HNO3
product | 5-nitro-2-propylthiopyrimidine-4,6-diol | [N+](=O)([O-])C=1C(=NC(=NC1O)SCCC)O | C7H9N3O4S
